US07713994B2
[4-(3,5-Dimethylpiperazin-1-yl)phenyl]amine
An amount of 3,5-dimethyl-1-(4-nitrophenyl)piperazine (1.86 g, 7.90 mmol) in EtOH is hydrogenated with Pd/C catalyst for 4 h. The solid is removed by filtration, and solvent is evaporated under vacuum to give pinkish residue. Recrystallization of this residue from MeOH/ether gives 1.30 g (80.2% yield) of pinkish crystal: mp 124-125° C.; MS (ESI) m/z 206.1 (M+H)+1

reactant | 3,5-dimethyl-1-(4-nitrophenyl)piperazine | 7.90 mmol, 1.86 g | CC1CN(CC(N1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | [4-(3,5-Dimethylpiperazin-1-yl)phenyl]amine | 1.30 g, 80.2% yield | CC1CN(CC(N1)C)C1=CC=C(C=C1)N | C12H19N3
